US06291485B1
A. Synthesis of 3′-ethoxy-2-phenoxyacetophenone
A mixture of 2-bromo-3′-ethoxyacetophenone (2.4 g, 10 m mol), phenol (1.0 g, 10.6 m mol), potassium carbonate (2.0 g, 14.5 m mol) and acetone (30 ml) was heated under reflux for 6 hours. After insoluble matter was filtered off, the solvent was distilled off under reduced pressure. The residue was dissolved in chloroform (40 ml), washed with water (2×20 ml), and dried. Thereafter, the solvent was distilled off under reduced pressure. The resulting residue was subjected to chromatography on silica gel (50 g) using chloroform. Thus, the desired compound (1.94 g, 75%) was obtained as an oily material.

reactant | 2-bromo-3′-ethoxyacetophenone | 2.4 g | BrCC(=O)C1=CC(=CC=C1)OCC | C10H11BrO2
reactant | phenol | 1.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 3′-ethoxy-2-phenoxyacetophenone | 1.94 g, 75% | C(C)OC=1C=C(C=CC1)C(COC1=CC=CC=C1)=O | C16H16O3
